US05807888
Batches of crude plant extracts from Taxus yunnanensis having approximately 15-40% cephalomannine, 50-70% paclitaxel, and approximately 20-35% other taxane/non-taxane components were obtained from the Peoples Republic of China. Bromine reagent was obtained from Fisher Scientific. Silica gel used was ICN Silitech, 32-63 um, 60 Å, ICN Biomedicals, Inc., Aurora, Ohio. All solvents used were either HPLC or ACS grade and were obtained from Spectrum Chemical Mfg. Corp. Purified water used was deionized in-house.

reactant | cephalomannine | C/C=C(\C)/C(=O)N[C@@H](C=1C=CC=CC1)[C@H](C(=O)O[C@H]2C[C@]3([C@H]([C@H]4[C@@]([C@H](C[C@@H]5[C@]4(CO5)OC(=O)C)O)(C(=O)[C@@H](C(=C2C)C3(C)C)OC(=O)C)C)OC(=O)C=6C=CC=CC6)O)O | C45H53NO14
reactant | paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
product | taxane | approximately 20-35% | C[C@@H]1CCC[C@@]2([C@@H]1C[C@@H]3CC[C@H]([C@@H](C3(C)C)CC2)C)C | C20H36
